Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elevated BPs at office visit
 
Major Surgical or Invasive Procedure:
--

 
History of Present Illness:
___ G2P1 at 36w4d sent from ___ during routine  
monitoring after BP 164/104 in office. Repeat 180/120. Today at 
___ per verbal report from Dr. ___ was ___, post 
placenta, ___, AFI 19, reactive NST, u dip negative for protein. 
Last weight 2 weeks ago 2321g 32%. Normal dopplers. 

 
Past Medical History:
PNC: no access to prenatal records
*) Dating: EDC: ___ by LMP
*) Labs:  B+ /Ab neg /RPRNR/RI/HbsAg neg/HIV neg/GBS -
*) Routine:
- GLT: 91
- U/S: nl full fetal survey per pt
- Genetics LR ERA
*) Issues
- cHTN, has been on aldomet 500 TID and procardia XL 30mg daily,
nifedipine caused severe HA and was changed to labetalol 200mg
TID on ___. No record of baseline 24 hour urine
- Fibroids: R fundal 5cm, right mid 9cm, left fundal 5cm
- Pt HbS carrier, FOB HbC carrier, previous infant Hb SC dz. 
Both
p and FOB also alpha thal carriers. Saw genetics during last
pregnancy, declined this pregnancy.

POBHx: SVD at 37wga of 6#7oz infant, PEC
PGynHx: Denies STDs or abnl paps, fibroids
PMH: HTN
PSH: None

 
Social History:
Denies EtOH/ Smoking/ Drugs

 
Physical Exam:
Exam on admission:
T 98.5 HR 76 RR 18 BP 172/101->172/101->182/111
General: NAD
Cardiac: RRR
Abdomen: soft, NT, gravid
Pulm: CTA
FHT: 130/mod var
TOCO: irregular
SVE: deferred until IV BP meds given
Neuro: patellar reflexes 1+ and symmetric  B/L

 
Pertinent Results:
___ WBC-14.4* RBC-4.15* Hgb-11.1* Hct-32.9* MCV-79* 
MCH-26.7* MCHC-33.6 RDW-15.5 Plt ___
___ WBC-23.1*# RBC-4.70 Hgb-12.8 Hct-37.7 MCV-80* MCH-27.2 
MCHC-33.9 RDW-16.3* Plt ___
___ WBC-10.4 RBC-4.76 Hgb-12.9 Hct-38.3 MCV-80* MCH-27.2 
MCHC-33.8 RDW-16.1* Plt ___
___ Creat-0.6
___ Creat-0.7
___ Creat-0.6
___ ALT-19
___ ALT-22
___ ALT-19
___ UricAcd-5.8*
___ UricAcd-5.5
___ UricAcd-4.8
 
Brief Hospital Course:
Ms. ___ presented to OB triage for evaluation of 
elevated BPs in the setting of chronic hypertension. While in 
triage she had elevated BPs as high as 180s/110s and received a 
total of 30 mg IV labetalol . Given her acutely elevated BPs the 
decision was made to proceed with induction of labor. Her blood 
pressures were maintained on oral labetalol. Her preeclampsia 
labs on admission were within normal limits.  
.
After routine induction of labor she had a spontaneous vaginal 
delivery. Please see delivery note for full details.  While on 
labor and delivery, immediately postpartum, her blood pressures 
again increased to 170s/100s so she received IV hydralazine with 
good response.  She then had aldomet added to her oral regimen. 
Given the severity of her BPs she was started on post-partum 
magnesium which she remained on for 12 hours. The patient 
declined a full 24 hours of postpartum magnesium sulfate. 
.
On post-partum day 2 her blood pressures were again elevated to 
the 180s/100s despite the labetalol 600 mg TID and aldomet 500 
mg TID. She was transferred up to L+D for further monitoring 
where she received 5 mg IV hydralazine with good response. Her 
methyldopa was also titrated to 750 mg TID. She then was 
transferred back to the post-partum floor. On postpartum day 3 
here blood pressures again started to increase and she 
nifedipine 10 mg TID was added to her regimen. Her blood 
pressure continued to remain acceptable on nifedipine 10 mg TID, 
labetalol 600 mg TID and 750 methyldopa. She was discharged home 
in good condition on post-partum day 3 with follow-up. 
 
Medications on Admission:
labetalol 200mg TID, aldomet 500mg TID

 
Discharge Medications:
1. labetalol 200 mg Tablet Sig: Four (4) Tablet PO three times a 
day.
Disp:*360 Tablet(s)* Refills:*2*
2. methyldopa 500 mg Tablet Sig: One (1) Tablet PO three times a 
day.
Disp:*90 Tablet(s)* Refills:*2*
3. methyldopa 250 mg Tablet Sig: One (1) Tablet PO three times a 
day.
Disp:*90 Tablet(s)* Refills:*2*
4. nifedipine 10 mg Capsule Sig: One (1) Capsule PO three times 
a day.
Disp:*90 Capsule(s)* Refills:*2*
5. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
6. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p vaginal delivery, CHTN

 
Discharge Condition:
stable

 
Discharge Instructions:
See discharge instructions.  Call for increased headache, 
blurred vision, worsening blood pressure.
 
Followup Instructions:
___